US04374067
A heterogeneous mixture of N-methyl-2-amino-α-phenylphenethylamine dihydrochloride (150 g, 0.5 mol) in acetonitrile (500 ml) was treated with triethylorthoacetate (202 ml, 1.1 mol) and heated to 70° C. for 2 hours with stirring under a dry nitrogen atmosphere. The reaction mixture was filtered, concentrated in vacuo, and the residual solid recrystallized from 2-propanol at -10° C. to give 2,3-dimethyl-4-phenyl-3H-1,3-benzodiazepin hydrochloride (118 g, 0.413 mol) in 83% yield. The product had a melting point of 239.5°-241° C.

reactant | N-methyl-2-amino-α-phenylphenethylamine dihydrochloride | 0.5 mol, 150 g | Cl.Cl.CNC(CC1=C(C=CC=C1)N)C1=CC=CC=C1
reactant | triethylorthoacetate | 1.1 mol, 202 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2,3-dimethyl-4-phenyl-3H-1,3-benzodiazepin hydrochloride | 0.413 mol, 118 g, 83% yield | Cl.CC1=NC2=C(C=C(N1C)C1=CC=CC=C1)C=CC=C2 | InChI=1S/C17H16N2.ClH/c1-13-18-16-11-7-6-10-15(16)12-17(19(13)2)14-8-4-3-5-9-14;/h3-12H,1-2H3;1H
